US06329502B1
[Process 1] Boc-Phg-NH2
In a dichloromethane solution containing 4.3 g of N-(tert-butoxycarbonyl)phenylglycine, 5 ml of ammonia water, 1.5 g of HOBt and 23 g of EDC hydrochloride were added under ice cooling and the resultant mixture was stirred overnight at room temperature. The reaction mixture was treated similarly to that in Example 144 (Process 2) to give 0.42 g of the title compound.

reactant | N-(tert-butoxycarbonyl)phenylglycine | 4.3 g | C(C)(C)(C)OC(=O)N(CC(=O)O)C1=CC=CC=C1 | C13H17NO4
reactant | ammonia water | 5 ml | O.N
reactant | HOBt | 1.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC hydrochloride | 23 g | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | ClCCl | CH2Cl2
product | Boc-Phg-NH2 | 0.42 g | N([C@@H](C1=CC=CC=C1)C(=O)N)C(=O)OC(C)(C)C | C13H18N2O3
